US08609647B2
(6) Optically-Active Compound of 3-methyl-2-(3-methyl-but-2-enyl)-azetidine-1,2-dicarboxylic acid di-tert-butyl ester
To a solution of an optically-active compound of 3-methylazetidine-1,2-dicarboxylic acid di-tert-butyl ester (48.0 g) and 1-bromo-3-methyl-2-butene (25.4 ml) in tetrahydrofuran (380 ml) cooled to −69° C. was added lithium hexamethyl disilazide (1.0M tetrahydrofuran solution, 200 ml). The reaction mixture was warmed to −20° C. over 40 minutes, and stirred at the same temperature for additional 20 minutes. To the reaction mixture were sequentially added saturated aqueous ammonium chloride solution (200 ml) and water (300 ml), and the mixture was extracted with n-hexane/ethyl acetate (1/1, 500 ml). The separated organic layer was sequentially washed with water (200 ml) and saturated aqueous sodium chloride solution (200 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=15/1 to 8/1) to give the titled compound (44.5 g).

reactant | 3-methylazetidine-1,2-dicarboxylic acid di-tert-butyl ester | 48.0 g | C(C)(C)(C)OC(=O)N1C(C(C1)C)C(=O)OC(C)(C)C | C14H25NO4
reactant | 1-bromo-3-methyl-2-butene | 25.4 ml | BrCC=C(C)C | C5H9Br
reactant | lithium hexamethyl disilazide | 1.0M, 200 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 380 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | 3-methyl-2-(3-methyl-but-2-enyl)-azetidine-1,2-dicarboxylic acid di-tert-butyl ester | 44.5 g | C(C)(C)(C)OC(=O)N1C(C(C1)C)(C(=O)OC(C)(C)C)CC=C(C)C | C19H33NO4
